US07741355B2
3-(2-tert-Butyoxycarbonylaminoethylamino)-4-nitrobenzoic acid methyl ester
A 2 L flask equipped with a stir bar was charged with 1,4-dioxane (300 mL), DMF (40 mL), K2CO3 (10 g) and 3-fluoro-4-nitrobenzoic acid (9.7 g). Mono-N-Boc-1,2-diaminoethane (8.6 g) was added to the reaction mixture and stirred for 12 h at 60° C. The reaction mixture was concentrated and the residue was dissolved in CH2Cl2 (400 mL) and H2O (500 mL). The heterogeneous mixture was transferred to a separatory funnel where the aqueous phase was separated and re-extracted with CH2Cl2 (2×100 mL). The organic phases were combined and washed with H2O (5×100 mL), dried over Na2SO4, filtered and concentrated under reduced pressure to provide the title compound as an orange solid (14 g, 84%).

reactant | 1,4-dioxane | 300 mL | O1CCOCC1 | C4H8O2
reactant | K2CO3 | 10 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 3-fluoro-4-nitrobenzoic acid | 9.7 g | FC=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4FNO4
reactant | Mono-N-Boc-1,2-diaminoethane | 8.6 g | C(=O)(OC(C)(C)C)NCCN | C7H16N2O2
solvent | DMF | 40 mL | CN(C)C=O | C3H7NO
product | 3-(2-tert-Butyoxycarbonylaminoethylamino)-4-nitrobenzoic acid methyl ester | 14 g, 84% | COC(C1=CC(=C(C=C1)[N+](=O)[O-])NCCNC(=O)OC(C)(C)C)=O | C15H21N3O6
